US08053438B2
4-methoxy-1-cyclohexen-1-yl trifluoromethanesulfonate (1.3 g, 5.0 mmol), bis(pinacolato)diboron (1.5 g, 6.0 mmol), potassium acetate (1.5 g, 15.0 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium (ii) dichloride dichloromethane complex (0.12 g, 0.15 mmol) were taken up in 25 mL of dioxane. The mixture was purged with nitrogen and heated to 80° C. After 12 hours, the mixture was cooled to room temperature and diluted with 50 mL of EtOAc. The mixture was washed with 10 mL of water and 10 mL of brine, then dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (1.5 to 10% EtOAc/hexanes) afforded 2-(4-methoxy-1-cyclohexen-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a clear oil.

reactant | 4-methoxy-1-cyclohexen-1-yl trifluoromethanesulfonate | 5.0 mmol, 1.3 g | FC(S(=O)(=O)OC1=CCC(CC1)OC)(F)F | C8H11F3O4S
reactant | bis(pinacolato)diboron | 6.0 mmol, 1.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 15.0 mmol, 1.5 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-(4-methoxy-1-cyclohexen-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | COC1CC=C(CC1)B1OC(C(O1)(C)C)(C)C | C13H23BO3
